US06933387B2
b) (R)-4-Methyl-6-trifluoromethoxy-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
Sodium hydride (280 mg of a 60% dispersion in mineral oil, 7 mmol) was added to a solution of 7-trifluoromethoxy-1H-indole-2-carboxylic acid ethyl ester (1.53 g, 5.6 mmol) and (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester (1.53 g, 6.45 mmol) in N,N-dimethylformamide (15 mL) at 0° C. The solution was allowed to reach room temperature and stirred 36 h. Further amounts of sodium hydride (56 mg) and (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester (306 mg) were added to complete the reaction. To the solution was added 10% aq. citric acid solution and the mixture stirred 1 h at room temperature. The organics were extracted with ethyl acetate (2×), the combined organic phases washed with sat. aq. NaHCO3 solution and brine, dried (Na2SO4), and evaporated. The residue was dissolved in dichloromethane (25 mL), cooled to 0° C. and treated with trifluoroacetic acid (12 mL). After removal of the ice bath, the solution was stirred for 30 min and evaporated under reduced pressure. The residue was taken up in methanol (20 mL) and K2CO3 (2.52 g, 19.5 mmol) added, and the mixture stirred 15 h at room temperature. The mixture was filtered, the filtrate diluted with ethyl acetate, washed with water, dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate gradient) to afford the product as a pale yellow foam (89 mg, 64%).

reactant | Sodium hydride | [H-].[Na+]
reactant | 7-trifluoromethoxy-1H-indole-2-carboxylic acid ethyl ester | 5.6 mmol, 1.53 g | C(C)OC(=O)C=1NC2=C(C=CC=C2C1)OC(F)(F)F | C12H10F3NO3
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 6.45 mmol, 1.53 g | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
reactant | sodium hydride | 56 mg | [H-].[Na+]
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 306 mg | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | K2CO3 | 19.5 mmol, 2.52 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (R)-4-Methyl-6-trifluoromethoxy-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 89 mg, 64% | C[C@@H]1CNC(C=2N1C=1C(=CC=CC1C2)OC(F)(F)F)=O | C13H11F3N2O2
